US07022725B2
A mixture of 3-[5-(4-bromophenyl)-4-isoxazolyl]propan-1-ol (1.10 g), copper cyanide (1.41 g), tris(dibenzylideneacetone)dipalladium (130 mg), 1,1′-bis(diphenylphosphino)ferrocene (314 mg), tetraethylammonium cyanide (553 mg) and 1,4-dioxane (20 ml) was refluxed for 3.5 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and 3-[5-(4-cyanophenyl)-4-isoxazolyl]propan-1-ol (418 mg, yield 52%) was obtained as pale yellow crystals from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 82–83° C.

reactant | 3-[5-(4-bromophenyl)-4-isoxazolyl]propan-1-ol | 1.10 g | BrC1=CC=C(C=C1)C1=C(C=NO1)CCCO | C12H12BrNO2
reactant | copper cyanide | 1.41 g | [Cu](C#N)C#N
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | tetraethylammonium cyanide | 553 mg | [C-]#N.C(C)[N+](CC)(CC)CC
catalyst | tris(dibenzylideneacetone)dipalladium | 130 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 314 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | Water | O | H2O
product | 3-[5-(4-cyanophenyl)-4-isoxazolyl]propan-1-ol | 418 mg, yield 52% | C(#N)C1=CC=C(C=C1)C1=C(C=NO1)CCCO | C13H12N2O2
